US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2,4,6-trichloroaniline to yield 2-[(2,4,6-trichlorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,4,6-trichloroaniline | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
product | 2-[(2,4,6-trichlorophenyl)amino]phenylacetic acid | ClC1=C(C(=CC(=C1)Cl)Cl)NC1=C(C=CC=C1)CC(=O)O | C14H10Cl3NO2
